US09168259B2
A solution of 700 mg (2.24 mmol) 2,6-dichloro-N-(3-fluorobenzyl)-4-methyl-pyridine-3-carboxylic acid amide (synthesis is described in section a) of example 2), 280 μl (2.9 mmol) thiomorpholine and 3.95 g (12.1 mmol) Cs2CO3 in dioxane (60 ml) was degassed for 30 min followed by the addition of 285 mg (0.25 mmol) Pd(PPh3)4. Subsequently the reaction solution was heated to 120° C. for 16 h. Then the mixture was filtered through celite and concentrated in vacuo. Purification of the residue by CC (hexane/EtOAc 19:1) provided 420 mg (1.1 mmol, 49%) 2-chloro-N-(3-fluorobenzyl)-4-methyl-6-thiomorpholino-pyridine-3-carboxylic acid amide.

reactant | 2,6-dichloro-N-(3-fluorobenzyl)-4-methyl-pyridine-3-carboxylic acid amide | 2.24 mmol, 700 mg | ClC1=NC(=CC(=C1C(=O)NCC1=CC(=CC=C1)F)C)Cl | C14H11Cl2FN2O
reactant | thiomorpholine | 2.9 mmol, 280 μl | N1CCSCC1 | C4H9NS
reactant | Cs2CO3 | 12.1 mmol, 3.95 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.25 mmol, 285 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-N-(3-fluorobenzyl)-4-methyl-6-thiomorpholino-pyridine-3-carboxylic acid amide | 1.1 mmol, 420 mg, 49% | ClC1=NC(=CC(=C1C(=O)NCC1=CC(=CC=C1)F)C)N1CCSCC1 | C18H19ClFN3OS
